* Extracted by KLayout with GF180MCU LVS runset on : 13/07/2026 18:46

.SUBCKT InjectionSchottkyPump
C$1 Stage1_out PHI1_w 3.2e-12 cap_mim_2f0fF A=1600P P=160U
C$2 Stage2_out PHI2_w 3.2e-12 cap_mim_2f0fF A=1600P P=160U
C$3 Vout_e GND_w 3.2e-12 cap_mim_2f0fF A=1600P P=160U
D$4 \$10 Stage2_out sc_diode A=0.72P P=4.72U
D$5 \$10 Stage2_out sc_diode A=0.72P P=4.72U
D$6 \$10 Stage2_out sc_diode A=0.72P P=4.72U
D$7 \$10 Stage2_out sc_diode A=0.72P P=4.72U
D$8 \$10 Stage2_out sc_diode A=0.72P P=4.72U
D$9 \$16 Vout_e sc_diode A=0.72P P=4.72U
D$10 \$16 Vout_e sc_diode A=0.72P P=4.72U
D$11 \$16 Vout_e sc_diode A=0.72P P=4.72U
D$12 \$16 Vout_e sc_diode A=0.72P P=4.72U
D$13 \$16 Vout_e sc_diode A=0.72P P=4.72U
D$14 \$17 Stage1_out sc_diode A=0.72P P=4.72U
D$15 \$17 Stage1_out sc_diode A=0.72P P=4.72U
D$16 \$17 Stage1_out sc_diode A=0.72P P=4.72U
D$17 \$17 Stage1_out sc_diode A=0.72P P=4.72U
D$18 \$17 Stage1_out sc_diode A=0.72P P=4.72U
.ENDS InjectionSchottkyPump
